US04877444
Preparation of 3-chloro-2-[4-ethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-indazole (Compound No. 1)
To a solution of 3-chloro-2-[7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-indazole (1.0 g) in N,N-dimethylformamide (10 ml), sodium hydride (0.3 g) and ethyl iodide (0.5 g) were successively added, and the resultant mixture was heated at 50° to 60° C., followed by stirring for 3 hours. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration and purified by silica gel column chromatography using a mixture of ethyl acetate and hexane as an eluent to give Compound No. 1 (0.9 g), m.p., 101.5°-102.5° C.

reactant | 3-chloro-2-[7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-indazole | 1.0 g | ClC=1N(N=C2CCCCC12)C=1C(=CC2=C(NC(CO2)=O)C1)F | C15H13ClFN3O2
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethyl iodide | 0.5 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-chloro-2-[4-ethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-indazole | ClC=1N(N=C2CCCCC12)C=1C(=CC2=C(N(C(CO2)=O)CC)C1)F | C17H17ClFN3O2
